US06251912B1
4-Chloro-but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6yl]-amide
Isobutyl chloroformate (0.625 g, 4.58 mmol) and N-methylmorpholine (0.506 g, 5.00 mmol) were added to an ice cold solution of 0.542 g (4.58 mmol) of 4-chloro-but-2-yanoic acid in 7mL of tetrahydrofuran under nitrogen. After stirring for 30min, a solution of 0.72 g (2.287 mmol) of N-(3-bromophenyl)-4,6-quinazolindiamine in 3.35 mL of pyridine was added and the mixture was stirred at 0° C. for 1 h. The reaction was quenched with ice water. The product was collected by filtration, washed with water and ether, and dried in vacuo to give 0.537 g of brown solid; ESMS m/z 417.0 (M+H+).

reactant | Isobutyl chloroformate | 4.58 mmol, 0.625 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 5.00 mmol, 0.506 g | CN1CCOCC1 | C5H11NO
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 2.287 mmol, 0.72 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | tetrahydrofuran | 7mL | O1CCCC1 | C4H8O
solvent | pyridine | 3.35 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6yl]-amide | 0.537 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C#CCCl)=O | C18H12BrClN4O
